US06436954B1
1,3,4,11a-Tetrahydro-9-methoxy-2H-benzo[b]quinolizin-11(6H)-one.
By the above procedure, N-(4-methoxyphenylmethyl)pipecolinic acid hydrochloride (2.98 g) was converted to 1,3,4,11a-tetrahydro-9-methoxy-2H-benzo[b]quinolizin-11(6R)-one (950 mg): mp 117-119° C. (ether); 1H NMR (300 MHz) δ 7.48 (d, J=2.7 Hz, 1 H), 7.14 (d, J=8.4 Hz, 1 H), 7.08 (dd, J=8.4, 2.7 Hz, 1 H), 3.84 (s, Me), 3.84(d, J=14.8 Hz, 1 H), 3.61 (d, J=14.8 Hz, 1 H), 3.08 (br d, J=11.1 Hz, 1 H), 2.74 (br d, J=10.1 Hz, 1 H), 2.42 (m 1 H), 2.34 (td, J=11.3, 3.6 Hz, 1 H), 1.90 (m, 1 H), 1.15-1.80 (m); 13C NMR (75 MHz) δ 195.89, 158.84, 134.60, 131.02, 127.51, 121.88, 108.96, 69.01, 56.61, 56.13, 55.52, 26.74, 25.03, 23.87; MS (EI) 231 (64, M), 203 (53), 202 (53), 174 (10), 161 (83), 148 (27), 121 (100), 120 (31); Anal. Calcd for C14H17NO2: C, 72.70; H, 7.41; N, 6.06; found C, 72.47; H, 7.47; N, 5.91.

reactant | N-(4-methoxyphenylmethyl)pipecolinic acid hydrochloride | 2.98 g | Cl.COC1=CC=C(C=C1)CN1C(C(=O)O)CCCC1
solvent | ether | CCOCC | C4H10O
product | 1,3,4,11a-Tetrahydro-9-methoxy-2H-benzo[b]quinolizin-11(6H)-one | COC=1C=CC2=C(C(C3CCCCN3C2)=O)C1 | C14H17NO2
